US07572820B2
A. 4-[(2-Bromoethyl)oxy]phenyl methyl sulfone
To a solution of 4-(methylsulfonyl)phenol (0.30 g, 1.74 mmol) in MeCN (5 mL) was added Cs2CO3 (0.71 g, 2.18 mmol) and 1,2-dibromoethane (1.64 g, 8.71 mmol). The resulting mixture was heated in a sealed tube at 100° C. After 1.5 h, additional Cs2CO3 (0.4 g, 1.21 mmol) was added and heated at 100° C. for another 2 h. Upon cooling, the mixture was partitioned between EtOAc and 1N NaOH. The organic phase was washed with sat'd brine, dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography (0-70% EtOAc-hexanes gradient) to afford the title compound as a white solid (0.255 g, 53% yield): MS (ES) m/z 279 and 281 (M+1 Br isotopes).

reactant | 4-(methylsulfonyl)phenol | 1.74 mmol, 0.30 g | CS(=O)(=O)C1=CC=C(C=C1)O | C7H8O3S
reactant | Cs2CO3 | 2.18 mmol, 0.71 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1,2-dibromoethane | 8.71 mmol, 1.64 g | BrCCBr | C2H4Br2
reactant | Cs2CO3 | 1.21 mmol, 0.4 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MeCN | 5 mL | CC#N | C2H3N
product | 4-[(2-Bromoethyl)oxy]phenyl methyl sulfone | 0.255 g, 53% yield | CS(=O)(=O)C1=CC=C(C=C1)OCCBr | C9H11BrO3S
